US04073917
1-Isobutoxy-2-(3'-diethylaminopropoxy)-benzene
The compound was prepared as directed in Example 1, using sodium (1.15 g; 50 mole), o-isobutoxyphenol (8.30 g; 50 mmole) and 3-diethylaminopropylchloride (7.50 g; 50 mmole) in 150 ml of ethanol. Yield 8.85 g (63%) of product, boiling at 104°-106° C under a pressure of 0.003 mm Hg, nD25 : 1.4914.

reactant | sodium | 50 mole, 1.15 g | [Na] | Na
reactant | o-isobutoxyphenol | 50 mmole, 8.30 g | C(C(C)C)OC1=C(C=CC=C1)O | C10H14O2
reactant | 3-diethylaminopropylchloride | 50 mmole, 7.50 g | C(C)N(CCCCl)CC | C7H16ClN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-Isobutoxy-2-(3'-diethylaminopropoxy)-benzene | C(C(C)C)OC1=C(C=CC=C1)OCCCN(CC)CC | C17H29NO2
